US06500863B1
1-[4-(tert-butoxycarbonyl)piperazin-1-yl]sulfonyl-6-chloro-2-hydroxy-3-nitrobenzene
Following the general hydrolysis procedure outlined in example 15, 1-[4-(tert-butoxycarbonyl)piperazin-1-yl]sulfonyl-2,6-dichloro-3-nitrobenzene (200 mg, 0.45 mmol), 60% NaH (54 mg, 1.35 mmol) and water (8μL, 0.45 mmol) were reacted to form the desired product (60 mg, 32%). EI-MS (m/z) 420.1, 422.1 (M+).

reactant | 1-[4-(tert-butoxycarbonyl)piperazin-1-yl]sulfonyl-2,6-dichloro-3-nitrobenzene | 0.45 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C15H19Cl2N3O6S
reactant | NaH | 1.35 mmol, 54 mg | [H-].[Na+]
reactant | water | 0.45 mmol, 8μL | O | H2O
product | 1-[4-(tert-butoxycarbonyl)piperazin-1-yl]sulfonyl-6-chloro-2-hydroxy-3-nitrobenzene | 60 mg, 32% | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C15H20ClN3O7S
